US04740509
3-(1-Acetyl-12-bromo-9,10-didehydro-6-methyl-8α-ergolinyl)-1,1-diethylurea
The compound is produced by reacting 3-(1-acetyl-9,10-didehydro-2,3-dihydro-6-methyl-8α-ergolinyl)-1,1-diethylurea with elemental bromine in 5% acetic acid, analogously to Example 6.

reactant | 3-(1-acetyl-9,10-didehydro-2,3-dihydro-6-methyl-8α-ergolinyl)-1,1-diethylurea | C(C)(=O)N1CC2C[C@H]3N(C[C@H](C=C3C=3C=CC=C1C32)NC(N(CC)CC)=O)C | C22H30N4O2
reactant | bromine | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(1-Acetyl-12-bromo-9,10-didehydro-6-methyl-8α-ergolinyl)-1,1-diethylurea | C(C)(=O)N1C=C2C[C@H]3N(C[C@H](C=C3C=3C(=CC=C1C32)Br)NC(N(CC)CC)=O)C | C22H27BrN4O2
